data/mechanisms/records/IMS8-EQ8.68b.json
{"mechanism_id": "IMS8-EQ8.68b", "species": [{"species_id": "n_ionized_1_methyl_octahydroindol_5_ol", "mapped_smiles": "[CH3:2][N+:1]1[CH2:3][CH2:4][CH:5]2[CH2:11][CH:9]([OH:10])[CH2:8][CH2:7][CH:6]12", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH3:2][N+:1]1=[CH:6][CH:5]([CH2:11][CH:9]([OH:10])[CH2:8][CH2:7])[CH2:4][CH2:3]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylene_pyrrolinium_ion_mz96", "mapped_smiles": "[CH3:2][N+:1]1=[CH:6][C:5](=[CH2:11])[CH2:4][CH2:3]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "one_hydroxypropyl_radical", "mapped_smiles": "[CH:9]([OH:10])[CH2:8][CH3:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_ionized_1_methyl_octahydroindol_5_ol"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["methylene_pyrrolinium_ion_mz96", "one_hydroxypropyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_h_transfer_and_beta_cleavage", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [5, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "bond", "atom_maps": [5, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 189, "equation": "8.68", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the leftmost structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = the fishhook printed straight after 'CH3N+.', taking the nitrogen odd electron into the N(1)-C(6) bond; drawn arc 2 = the arc that loops below and left of C(6), tail on the C(6)-C(7) carbocycle bond and fishhook head back on the N(1)-C(6) bond, raising it to N+=C(6). The undrawn move 3 carries the second electron of the cleaved C(6)-C(7) bond onto C(7); the book instead simply prints the radical dot on that carbon in the drawn intermediate. This is the classic radical-site alpha cleavage that only OPENS the carbocycle -- no mass is lost yet, so the intermediate is a distonic ion of the same m/z as the molecular ion."}, {"evidence_id": "evidence_step_h_transfer", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_transfer_and_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 189, "equation": "8.68", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.75, "curator_note": "Book draws 3 arc(s) on the drawn intermediate; move <3> is drawn, move <1> COMPRESSES the two drawn hydrogen-transfer fishhooks into one net one-electron migration, and moves <2,4> are not drawn on the page. Detail: the two arcs around the explicitly lettered 'H' depict the 1,5-hydrogen abstraction -- one fishhook runs from the C(5)-H bond down toward the radical carbon C(7), the other runs from the C(7) radical site up toward that same H; because the transferred hydrogen carries no atom map in this schema, both are encoded as the single net move C(7) -> C(5) (the same compression used in the corpus for gamma-H rearrangements, cf. IMS4-EQ4.33). The third drawn arc has its tail on the C(11)-C(9) bond and its fishhook head on the C(5)-C(11) bond -- that is move <3>, the sigma->pi electron. The two undrawn moves are move <2> (the electron left on C(5) by the H abstraction going into the new C(5)=C(11) pi bond) and move <4> (the second electron of the cleaved C(11)-C(9) bond going onto C(9)); the book simply prints the resulting radical dot on the hydroxyl-bearing carbon of the expelled neutral. Net result: the C(9)-C(11) bond breaks, C(11) leaves with the ion as the exocyclic methylene, and 1-hydroxypropyl radical departs -- exactly the neutral drawn ('H2C' methylene, a CH with the wavy bond, and a radical-dot CH-OH)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 155.1299, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_96", "species_id": "methylene_pyrrolinium_ion_mz96", "step_id": "step_h_transfer_and_beta_cleavage", "observed_mz": 96.0802, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
